US06562976B2
2-Cyclopentyl-4-(3,4-difluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-5-ol
190 mg of 5-(tert-butyldimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7dimethyl-5,6,7,8-tetra-hydroquinoline, in a mixture of 1.6 ml of 5 N hydrochloric acid, 2.3 ml of methanol and 1.5 ml of tetrahydrofuran, were stirred at RT for 1 hour and then at 40° C.-45° C. for 2 hours. Some of the compound precipitated out as a by-product. This gives 80 mg of m.p. 206-207° C. The mother liquor is admixed with saturated aqueous sodium bicarbonate solution and with ethyl acetate. The organic phase is once more washed with saturated aqueous sodium bicarbonate solution and then dried. The solvent is distilled off under reduced pressure and the residue is then purified over a silica gel column. Crystallization with heptane gives 40 mg of the base of m.p. 149-150° C.

reactant | 5-(tert-butyldimethylsilanyloxy)-2-cyclopentyl-4-(3,4-difluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7dimethyl-5,6,7,8-tetra-hydroquinoline | 190 mg | [Si](C)(C)(C(C)(C)C)OC1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C(C1=CC=C(C=C1)C(F)(F)F)F)C1=CC(=C(C=C1)F)F | C36H43F6NOSi
reactant | methanol | 2.3 ml | CO | CH4O
reactant | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
solvent | hydrochloric acid | 5 N, 1.6 ml | Cl | ClH
product | 2-Cyclopentyl-4-(3,4-difluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-5-ol | 40 mg | C1(CCCC1)C1=NC=2CC(CC(C2C(=C1C(C1=CC=C(C=C1)C(F)(F)F)F)C1=CC(=C(C=C1)F)F)O)(C)C | C30H29F6NO
